US03953429
3α-Hydroxy-17β-methoxycarbonyl-5α-androst-1-en-11-one.
A solution of 2β-bromo-3α-hydroxy-17β-methoxycarbonyl-5α-androstan-11-one. (3.48 g.,), dihydropyran (8 ml.) and p-toluenesulphonic acid (60 mg.) in benzene (150 ml.) was stirred at room temperature for 15 minutes before being washed with aqueous 10% sodium bicarbonate and water. The benzene solution was dried and evaporated to give a gum which was dissolved in dimethylacetamide (120 ml.). After the addition of anhydrous lithium bromide (14.4 g.) and calcium carbonate (11.2 g.) the mixture was heated (100°) for 6 hr. Cooling, dilution with chloroform and filtration gave a solution which was washed with water, dried, filtered and evaporated. The residue was dissolved in methanol (200 ml.) containing aqueous 2N hydrochloric acid (1 ml.). After 4 hr. the methanol was removed by evaporation and chloroform added. This solution, after being washed with aqueous 10% sodium bicarbonate and water, was dried, filtered and evaporated to an oil. The addition of ether resulted in crystallisation of the title compound (1.125 g.); m.p. 172°-175°; [α]D + 40°, (c 0.7).

reactant | 2β-bromo-3α-hydroxy-17β-methoxycarbonyl-5α-androstan-11-one | Br[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC([C@@H]3[C@]2(C1)C)=O)C(=O)OC)O | C21H31BrO4
reactant | dihydropyran | 8 ml | O1CCCC=C1 | C5H8O
reactant | p-toluenesulphonic acid | 60 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | lithium bromide | 14.4 g | [Br-].[Li+]
reactant | calcium carbonate | 11.2 g | C([O-])([O-])=O.[Ca+2]
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | dimethylacetamide | 120 ml | CC(=O)N(C)C | C4H9NO
product | 3α-Hydroxy-17β-methoxycarbonyl-5α-androst-1-en-11-one | 1.125 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC([C@@H]3[C@]2(C=C1)C)=O)C(=O)OC | C21H30O4
